US08580762B2
Step 2: Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoate
Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}amino)cyclobutyl]propanoate (3.2 g, 6.12 mmol) was dissolved in methanol (32 ml), Formaldehyde in water (37%) (0.92 ml, 12.3 mmol) was added and stirred for 45 min before adding sodium cyanoborohydride (0.54 g, 8.57 mmol) portionwise. The reaction was stirred for 2 h at r.t. before adding water (1 ml) and evaporating off the solvent at r.t. The residue was purified by chromatography with 7M ammonia in methanol/DCM to give the desired compound as a yellow oil (mix of diastereomers) (2.05 g, 62%, 82% pure): MS (ESI+) for C28H36N6O5 m/z 537.6 [M+H]+; LC purity 82% (ret. time, 1.60 min); 1H NMR (500 MHz, CDCl3) δH 8.32-8.38 (m, 1H), 7.91-7.97 (m, 1H), 7.32-7.39 (m, 5H), 6.05-6.10 (m, 1H), 5.61 (br. s., 2H), 5.53 (ddd, J=16.5, 6.4, 1.8 Hz, 1H), 5.11 (m, 2H), 4.93-5.00 (m, 1H), 4.32-4.40 (m, 1H), 2.50-2.88 (m, 1H), 2.37-2.49 (m, 2H), 2.21-2.30 (m, 2H), 2.10 (m, 3H), 1.91-2.04 (m, 1H), 1.73-1.79 (m, 2H), 1.64-1.72 (m, 2H), 1.56-1.63 (m, 4H), 1.41 (s, 3H), 1.15 (q, J=9.7 Hz, 1H).

reactant | Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}amino)cyclobutyl]propanoate | 6.12 mmol, 3.2 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CNC2CC(C2)CCC(=O)OCC2=CC=CC=C2 | C27H34N6O5
reactant | Formaldehyde | C=O | CH2O
reactant | water | 12.3 mmol, 0.92 ml | O | H2O
reactant | sodium cyanoborohydride | 8.57 mmol, 0.54 g | C(#N)[BH3-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 32 ml | CO | CH4O
product | Benzyl 3-[3-({[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]methyl}(methyl)amino)cyclobutyl]propanoate | 2.05 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC2=CC=CC=C2)C | C28H36N6O5
